US07375099B2
a) 2-[2-(3,5-Difluoro-benzylcarbamoyl)-propionylamino]-3-(1H-indol-3-yl)-propionic acid tert-butyl ester
N-(3,5-Difluoro-benzyl)-2-methyl-malonamic acid (3.00 g, 12.3 mmol), L-tryptophan-tert-butylester hydrochloride (3.66 g, 12.3 mmol), TBTU (O-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium-tetrafluoroborate, 3.96 g, 12.3 mmol) and triethylamin (3.74 g, 3.70 mmol) were dissolved in DMF (15 ml) and stirred for 5 h at r.t. The reaction mixture was poured into water and the product mixture was extracted with ethyl acetate. The organic layers were dried (Na2SO4). After evaporation of the solvent, the title compound, MS: m/e=486.4 (M+H+), (6.45 g, quant.) was obtained by chromatographic purification of the residue (silica gel, MeOH, CH2Cl2).

reactant | N-(3,5-Difluoro-benzyl)-2-methyl-malonamic acid | 12.3 mmol, 3.00 g | FC=1C=C(CNC(C(C(=O)O)C)=O)C=C(C1)F | C11H11F2NO3
reactant | L-tryptophan-tert-butylester hydrochloride | 12.3 mmol, 3.66 g | Cl.C(C)(C)(C)OC([C@@H](N)CC1=CNC2=CC=CC=C12)=O
reactant | TBTU | 12.3 mmol, 3.96 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | triethylamin | 3.70 mmol, 3.74 g | C(C)N(CC)CC | C6H15N
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 2-[2-(3,5-Difluoro-benzylcarbamoyl)-propionylamino]-3-(1H-indol-3-yl)-propionic acid tert-butyl ester | C(C)(C)(C)OC(C(CC1=CNC2=CC=CC=C12)NC(C(C)C(NCC1=CC(=CC(=C1)F)F)=O)=O)=O | C26H29F2N3O4
